US04110447
A solution of 28.5 g of 1-acetamido-3-(4'-fluoro-4-biphenylyl)-butane in 800 ml of 10% methanolic KOH solution is boiled for 48 hours. The solution is concentrated and worked up using water and ether to give 3-(4'-fluoro-4-biphenylyl)-butylamine; hydrochloride, m.p. 222° - 224°.

reactant | 1-acetamido-3-(4'-fluoro-4-biphenylyl)-butane | 28.5 g | C(C)(=O)NCCC(C)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C18H20FNO
solvent | KOH | 800 ml | [OH-].[K+]
product | 3-(4'-fluoro-4-biphenylyl)-butylamine | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCN)C | C16H18FN
